US06399660B1
A solution of (1R,2S)-2-amino-1-(4-hydroxyphenyl)propan-1-ol (97 mg), ethyl 2-[4-(2-bromoethyl)-3-chlorophenoxy]acetate (187 mg) and N,N-diisopropylethylamine (203 μl) in N,N-dimethylformamide (3 ml) was stirred for 10 hours at 60° C. After cooling, water was added to the reaction mixture and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. After the solvent was removed in vacuo, purification of the residue by medium pressure liquid column chromatography on aminopropyl silica gel (eluent: ethyl acetate/ethanol=30/1) gave ethyl 2-[3-chloro-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methyl-ethyl]amino]ethyl]phenoxy]acetate (75 mg).

reactant | (1R,2S)-2-amino-1-(4-hydroxyphenyl)propan-1-ol | 97 mg | N[C@H]([C@H](O)C1=CC=C(C=C1)O)C | C9H13NO2
reactant | ethyl 2-[4-(2-bromoethyl)-3-chlorophenoxy]acetate | 187 mg | BrCCC1=C(C=C(OCC(=O)OCC)C=C1)Cl | C12H14BrClO3
reactant | N,N-diisopropylethylamine | 203 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[3-chloro-4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methyl-ethyl]amino]ethyl]phenoxy]acetate | 75 mg | ClC=1C=C(OCC(=O)OCC)C=CC1CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C | C21H26ClNO5
